US05158951
Preparation of N-hexyl-6-methyl-4-oxo-4H-pyrido-[1,2-a]pyrimidine-3-carboxamide
A mixture containing 16.32 g (0.08 mol) of 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 12.4 ml (0.088 mol) of triethylamine in 480 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 6.5 ml (0.08 mol) of methyl chloroformate in 40 ml of chloroform is dropped to the above mixture at a temperature between -11° C. and -12° C. during 20 minutes. After stirring for 5 minutes, 8.9 g (0.088 mol) of hexylamine dissolved in 80 ml of dried chloroform are dropped to the above solution at -12° C. during 35 minutes. The reaction mixture is stirred at the same temperature for 1 hour and then let to stand under cooling by ice. For working up, the reaction mixture is washed 3 times with 150 ml of 5% sodium hydrogen carbonate solution each and then 3 times with 150 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to give 16.4 g (71.3%) of the named product as yellow crystals after recrystallization from ethanol, m.p.: 116°-118° C.

reactant | 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.08 mol, 16.32 g | CC1=CC=CC=2N1C(C(=CN2)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 0.088 mol, 12.4 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.08 mol, 6.5 ml | ClC(=O)OC | C2H3ClO2
reactant | hexylamine | 0.088 mol, 8.9 g | C(CCCCC)N | C6H15N
solvent | chloroform | 480 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N-hexyl-6-methyl-4-oxo-4H-pyrido-[1,2-a]pyrimidine-3-carboxamide | 16.4 g, 71.3% | C(CCCCC)NC(=O)C1=CN=C2N(C1=O)C(=CC=C2)C | C16H21N3O2
